US07674791B2
To a solution of 4-(8-amino-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyrazin-6-ylethynyl)-piperidin-4-ol (22 mg,0.068 mmol) and 2,4,6-trifluoro-benzaldehyde (11 mg, 0.068 mmol) in CH2Cl2 (2 mL) was added sodium triacetoxyborohydride (32 mg, 0.15 mmol) and acetic acid (6 uL, 0.10 mmol). The reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was filtered through a pad of silica-gel, washed with ethyl acetate. The eluant was concentrated. The residue was isolated by reversed phased HPLC eluting with a water/acetonitrile gradient to yield 4-(8-amino-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyrazin-6-ylethynyl)-1-(2,4,6-trifluoro-benzyl)-piperidin-4-ol (1 mg, 3%). 1H NMR (300 MHz, DMSO): δ 7.92 (br s, 1H), 7.70 (m, 3H), 7.41 (s, 2H), 7.14 (s, 1H), 6.72 (s, 1H), 4.43 (s, 2H), 3.80 (m, 4H), 2.12-1.96 (m, 4 H). MS: m/z: 469 [M+H]+.

reactant | 4-(8-amino-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyrazin-6-ylethynyl)-piperidin-4-ol | 0.068 mmol, 22 mg | NC=1C=2N(C=C(N1)C#CC1(CCNCC1)O)N=C(N2)C=2OC=CC2 | C16H16N6O2
reactant | 2,4,6-trifluoro-benzaldehyde | 0.068 mmol, 11 mg | FC1=C(C=O)C(=CC(=C1)F)F | C7H3F3O
reactant | sodium triacetoxyborohydride | 0.15 mmol, 32 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.10 mmol, 6 uL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-(8-amino-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyrazin-6-ylethynyl)-1-(2,4,6-trifluoro-benzyl)-piperidin-4-ol | 1 mg, 3% | NC=1C=2N(C=C(N1)C#CC1(CCN(CC1)CC1=C(C=C(C=C1F)F)F)O)N=C(N2)C=2OC=CC2 | C23H19F3N6O2
